US09056865B2
Step 2: Tert-butyl 4-(5′-chloro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperazine-1-carboxylate
To a solution of 2′,5′-dichloro-3,5-dimethyl-2,4′-bipyridine (4.5 g, 17.8 mmol) and tert-butyl piperazine-1-carboxylate (4.0 g, 21.4 mmol) in DMSO (80 mL) was added CsF (5.4 g, 35.6 mmol). Then the mixture was heated at 120° C. for 18 hours. TLC (petroleum ether/EtOAc=2:1) showed that the reaction was complete. It was diluted with EtOAc (200 mL), washed with H2O (70 mL) and brine (70 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography on silica gel (petroleum ether/EtOAc=3:1) to afford title compound (5.6 g, 78%) as white solid.

reactant | 2′,5′-dichloro-3,5-dimethyl-2,4′-bipyridine | 17.8 mmol, 4.5 g | ClC1=NC=C(C(=C1)C1=NC=C(C=C1C)C)Cl | C12H10Cl2N2
reactant | tert-butyl piperazine-1-carboxylate | 21.4 mmol, 4.0 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | CsF | 35.6 mmol, 5.4 g | [F-].[Cs+]
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Tert-butyl 4-(5′-chloro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperazine-1-carboxylate | 5.6 g, 78% | ClC=1C(=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=C(C=C1C)C | C21H27ClN4O2
